US07915411B2
N-(4-Fluoro-3-nitro-phenyl)-3-trifluoromethyl-benzamide
A solution of 4-Fluoro-3-nitro-aniline (2.00 g, 12.8 mmol), 3-Trifluoromethyl-benzoyl chloride (1.895 mL, 12.8 mmol), Hunig's base (4.463 mL, 25.6 mmol) in tetrahydrofuran (50 ml) was stirred at room temperature for 1 hour. Afterwards water (450 mL) was added to the solution and the resultant solid was collected by filtration and dried in a vacuum oven to provide the title compound (3.311 g, 97%).

reactant | 4-Fluoro-3-nitro-aniline | 12.8 mmol, 2.00 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | 3-Trifluoromethyl-benzoyl chloride | 12.8 mmol, 1.895 mL | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | Hunig's base | 25.6 mmol, 4.463 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 450 mL | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(4-Fluoro-3-nitro-phenyl)-3-trifluoromethyl-benzamide | 3.311 g, 97% | FC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)[N+](=O)[O-] | C14H8F4N2O3
